US08580785B2
a) Preparation of 7-amino-8-chloro-2,3-dimethyl-quinoxaline-6-carboxylic acid methyl ester
To a solution of 1.5 g (6.96 mmol) of 2,4,5-triamino-3-chloro-benzoic acid methyl ester in 27 ml of EtOH, is added 0.81 ml (9.18 mmol) of 2,3-butanedione. The mixture is stirred under reflux during 1 hour. After cooling the mixture to ambient temperature EtOAc is added and the organic phase is washed with H2O (2 times). The organic phase is dried on Na2SO4, filtrated and evaporated. After purification by flash chromatography on silica gel, 1.18 g (4.22 mmol, 62%) of an orange-coloured solid were obtained. 1H-NMR (CDCl3, 300 MHz): ? ppm=2.67 (s, 3H), 2.75 (s, 3H), 3.97 (s, 3H), 6.47 (s br, 2H), 8.58 (s, 1H).

reactant | 2,4,5-triamino-3-chloro-benzoic acid methyl ester | 6.96 mmol, 1.5 g | COC(C1=C(C(=C(C(=C1)N)N)Cl)N)=O | C8H10ClN3O2
reactant | 2,3-butanedione | 9.18 mmol, 0.81 ml | CC(C(C)=O)=O | C4H6O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 27 ml | CCO | C2H6O
product | 7-amino-8-chloro-2,3-dimethyl-quinoxaline-6-carboxylic acid methyl ester | 4.22 mmol, 1.18 g, 62% | COC(=O)C=1C=C2N=C(C(=NC2=C(C1N)Cl)C)C | C12H12ClN3O2
